US07074809B2
1-Pyridin-2-ylmethyl-piperidine-2-carboxylic acid methyl ester
Methyl pipecolinate hydrochloride (9.0 g, 50 mmol) was mixed with pyridine-2-carbaldehyde (5.4 g, 50 mmol) and triethylamine (5.05 g, 50 mmol) in dichloroethane (180 mL) at room temperature. Sodium triacetoxyborohydride (14.8 g, 70 mmol) was added in one portion. After the reaction mixture was stirred at room temperature for 1.5 h, saturated sodium carbonate was added. Then the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried with sodium sulfate, filtered and concentrated to give 10.9 g (93.6%) of the title compound as a pale brown oil. 1H NMR (CDCl3), δ(ppm): 8.53 (d, 1H), 7.65 (td, 1H), 7.49 (d, 1H), 7.14 (t, 1H), 3.89 (d, 1H), 3.73 (s, 3H), 3.68 (d, 1H), 3.25 (dd, 1H), 2.97 (m, 1H), 2.25 (m, 1H), 1.85 (m, 2H), 1.30-1.76(m, 4H).

reactant | Methyl pipecolinate hydrochloride | 50 mmol, 9.0 g | Cl.N1C(C(=O)OC)CCCC1
reactant | pyridine-2-carbaldehyde | 50 mmol, 5.4 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | triethylamine | 50 mmol, 5.05 g | C(C)N(CC)CC | C6H15N
reactant | Sodium triacetoxyborohydride | 70 mmol, 14.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 180 mL | ClC(C)Cl | C2H4Cl2
product | 1-Pyridin-2-ylmethyl-piperidine-2-carboxylic acid methyl ester | 10.9 g, 93.6% | COC(=O)C1N(CCCC1)CC1=NC=CC=C1 | C13H18N2O2
